US08629137B2
Step 7: 9-fluoro-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
13.7 g (38.8 mmol) 3-(1-benzyl-piperidin-4-yl)-9-fluoro-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one in 100 mL MeOH were shaken with 2.00 g palladium on charcoal (Pd/C 10%) under a hydrogen atmosphere (3 bar) at RT. The catalyst was filtered off and the solvent was evaporated down. The residue was purified by flash chromatography. The fractions containing the product were combined and evaporated down. The residue was stirred with DIPE/EtOAc, suction filtered and dried.

reactant | 3-(1-benzyl-piperidin-4-yl)-9-fluoro-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 38.8 mmol, 13.7 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2F)=O | C21H24FN3O
solvent | MeOH | 100 mL | CO | CH4O
catalyst | palladium on charcoal | 2.00 g | [Pd] | Pd
product | 9-fluoro-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | FC1=CC=CC2=C1NC(N(CC2)C2CCNCC2)=O | C14H18FN3O
